US07282501B2
Step A: 3-[2-Benzyloxymethyl-4-(tert-butyl-diphenyl-silanyloxy)-phenyl]-propionic acid tert-butyl ester
A 100 mL round bottomed flask was charged with 3-[4-(tert-butyldiphenylsilanyloxy)-2-hydroxymethylphenyl]propionic acid tert-butyl ester (1.52 g, 3.10 mmol), anhydrous DMF (15 mL), and then benzyl bromide (1.84 mL, 15.5 mmol) under a nitrogen atmosphere. The solution was cooled to −10° C., and NaH (0.124 g, 3.10 mmol, 60% oil dispersion) was added. The mixture was stirred for 5 h, and was poured into EtOAc (150 mL). The organic layer was washed with brine (2×), dried (Na2SO4), and concentrated to a brown oil. The crude oil was purified using radial chromatography (EtOAc:hexanes 2:98 to 5:95) to give a pale yellow oil (1.04 g, 58%). MS (ES) m/e 598 (M+NH4).

reactant | 3-[4-(tert-butyldiphenylsilanyloxy)-2-hydroxymethylphenyl]propionic acid tert-butyl ester | 3.10 mmol, 1.52 g | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CO)=O | C30H38O4Si
reactant | DMF | 15 mL | CN(C)C=O | C3H7NO
reactant | benzyl bromide | 15.5 mmol, 1.84 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | NaH | 3.10 mmol, 0.124 g | [H-].[Na+]
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 3-[2-Benzyloxymethyl-4-(tert-butyl-diphenyl-silanyloxy)-phenyl]-propionic acid tert-butyl ester | 1.04 g, 58% | C(C)(C)(C)OC(CCC1=C(C=C(C=C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)COCC1=CC=CC=C1)=O | C37H44O4Si
